US07683064B2
2,6-dibromotoluene (2.50 g, 10.0 mmol) was dissolved in 20 mL carbontetrachloride. N-bromosuccinimide (1.87 g, 10.5 mmol) was added followed by benzoyl peroxide (73 mg, 0.30 mmol). The resulting mixture was heated at reflux for 90 minutes. 50 mL petroleum ether was added. This was filtered and concentrated in vacuo to yield 1,3-Dibromo-2-bromomethyl-benzene (3.52 g, 10.7 mmol). 1HNMR (300 MHz, CDCl3) δ 4.83 (s, 3H), 7.02 (t, J=8 Hz, 1H), and 7.55 (d, J=8 Hz, 2H).

reactant | 2,6-dibromotoluene | 10.0 mmol, 2.50 g | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | N-bromosuccinimide | 10.5 mmol, 1.87 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbontetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.30 mmol, 73 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1,3-Dibromo-2-bromomethyl-benzene | 10.7 mmol, 3.52 g | BrC1=C(C(=CC=C1)Br)CBr | C7H5Br3
